US08017649B2
3′,4′-Dihydroxyflavone 3-hemiadipate
A mixture of 3′,4′-dibenzyloxy-3-(benzyloxycarbonylbutylcarbonyloxy)flavone (2.12 g, 3.16 mmol) and Pd(OH)2 (107 mg) in 9:1 THF:EtOH containing 0.05% acetic acid (50.0 mL) was treated with H2 under high pressure for 5 h. The reaction mixture was filtered (Celite) and concentrated to give a dark green solid. The green residue was purified by flash chromatography (30-90% THF/toluene+1% acetic acid) followed by crystallization from THF/petroleum spirits to yield the pure hemiadipate as a pale brown solid (0.70 g, 56%); mp=194-197° C.; 1H NMR (399.8 MHz, CDCl3); δ 1.44-1.62 (m, 4H, CH2CH2); 2.10 (t, 2H, J=6.8 Hz, CH2CO); 2.44 (t, 2H, J=6.8 Hz, CH2CO); 6.73 (d, 1H, J5′,6′=8.4 Hz, H5′); 7.09 (dd, 1H, J2′,6′=2.0 Hz, J5′,6′=8.4 Hz, H6′); 7.16-7.22 (m, 2H, H6, 2′); 732 (d, 1H, J7,8=8.0 Hz, H8); 7.48 (ddd, 1H, J5,7=1.6 Hz, J6,7=6.8 Hz, J7,8=8.0 Hz, H7); 7.94 (dd, 1H, J5,6=8.4 Hz, J5,7=1.6 Hz, H5). 13C NMR (100.5 MHz, d6-DMSO) δ 25.30, 25.62 (2C, CH2CH2CO2); 34.43, 34.81 (2C, CH2CO2); 116.59, 117.42, 119.98, 121.41, 122.06, 124.13, 126.51, 127.07, 133.32, 136.04, 146.97, 150.65, 156.35, 157.27 (14C, Ar); 171.97, 173.46, 179.95 (3C, C═O). Anal. Found; C, 68.89; H, 4.91; C21H18O6 requires C, 68.85; H, 4.95%. HRMS (ESI+) m/z 389.1000, C21H18NaO6 [M+Na]+ requires 389.1001.

reactant | 3′,4′-dibenzyloxy-3-(benzyloxycarbonylbutylcarbonyloxy)flavone | 3.16 mmol, 2.12 g | C(C1=CC=CC=C1)OC=1C=C(C=2OC3=CC=CC=C3C(C2OC(=O)CCCCC(=O)OCC2=CC=CC=C2)=O)C=CC1OCC1=CC=CC=C1 | C42H36O8
reactant | THF | C1CCOC1 | C4H8O
catalyst | Pd(OH)2 | 107 mg | [OH-].[OH-].[Pd+2]
solvent | EtOH | 50.0 mL | CCO | C2H6O
product | 3′,4′-Dihydroxyflavone | 0.70 g, 56% | OC=1C=C(C=2OC3=CC=CC=C3C(C2)=O)C=CC1O | C15H10O4
